US05679696
Acetic anhydride (10 mL) is treated with N-(2,6-dichloro-4-aminophenyl)-3-cyclopentyloxy-4-methoxybenzamide (0.8 g; that is prepared as described in Example 11), and the reaction mixture is stirred for 2 hours and left to stand overnight. It is then poured into water (100 mL), and extracted with ethyl acetate (100 mL) and then with dichloromethane (100 mL). The organic extracts are combined, dried over magnesium sulfate, and evaporated, to give N-(4-acetylamino-2,6-dichlorophenyl)-3-cyclopentyloxy-4-methoxybenzamide (0.4 g), m.p. 250°-252° C. [Elemental analysis: C,57.6; H,5.05; N,6.3; Cl,16.1%; calculated: C,57.5; H,5.1; N,6.4; Cl,16.2%].

reactant | Acetic anhydride | 10 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | N-(2,6-dichloro-4-aminophenyl)-3-cyclopentyloxy-4-methoxybenzamide | ClC1=C(C(=CC(=C1)N)Cl)NC(C1=CC(=C(C=C1)OC)OC1CCCC1)=O | C19H20Cl2N2O3
solvent | water | 100 mL | O | H2O
product | N-(4-acetylamino-2,6-dichlorophenyl)-3-cyclopentyloxy-4-methoxybenzamide | 0.4 g | C(C)(=O)NC1=CC(=C(C(=C1)Cl)NC(C1=CC(=C(C=C1)OC)OC1CCCC1)=O)Cl | C21H22Cl2N2O4
